US04965005
A suspension of 47.3 g (0.4 mol) of 2-mercaptothiazoline together with 52.3 g (0.4 mol) of dibutylamine and 34.3 g (0.41 mol) of 36% aqueous formaldehyde in 150 ml of toluene is stirred for 5 hours at 50° C. The water is then separated off from the clear toluene phase and the latter is evaporated under reduced pressure. This gives 94.8 g (yield 91%) of 3-(dibutylaminomethyl)-thiazoline-2-thione in the form of a yellowish, highly fluid oil. nD20 1.5512.

reactant | 2-mercaptothiazoline | 0.4 mol, 47.3 g | SC=1SCCN1 | C3H5NS2
reactant | dibutylamine | 0.4 mol, 52.3 g | C(CCC)NCCCC | C8H19N
reactant | formaldehyde | 0.41 mol, 34.3 g | C=O | CH2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(dibutylaminomethyl)-thiazoline-2-thione | 94.8 g, yield 91% | C(CCC)N(CCCC)CN1C(SC=C1)=S | C12H22N2S2
